* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8655 1 2 3 4 5
C1 Clamp MID {Cfp1}
B1 MID Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,MID), {Isink}, 5m), {Isrc}, 5m)
G2 0 Vcc_Int N046 0 1
G3 0 Vee_Int N048 0 1k
R6 Vcc_Int 0 1 Noiseless
R7 Vee_Int 0 1m Noiseless
Cinp MID Inp1 {Ccm}
Cinn Inn1 MID {Ccm}
Cdiff Inp1 Inn1 {Cdiff}
Rinn Inn1 MID {Rcm} Noiseless
Rinp MID Inp1 {Rcm} Noiseless
G14 MID Inn2 Inn1 MID 1m
C12 Inn2 MID 1f Rpar=1k
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
R1 Inp1 N017 {Rser} Noiseless
R2 Inn1 N036 {Rser} Noiseless
Rdiff Inp1 Inn1 {Rdiff} Noiseless
S1 3 5 5 3 ESDO
S2 5 4 4 5 ESDO
G21 N019 N018 N037 N038 1m
R59 N019 N018 1k Noiseless
G26 MID N018 N008 MID 1k
G27 MID Inp2 N019 MID 1m
C30 N002 N001 {C1a_CMR}
R58 N001 MID 1 Noiseless
R74 N002 N001 {R1a_CMR} Noiseless
R77 N002 MID {R2a_CMR} Noiseless
G31 MID N001 Inp1 MID {G1_CMR}
G32 N007 N008 N002 MID 1m
R82 N008 N007 1k Noiseless
G33 MID N005 Inp1 MID 1k
C32 N005 MID 1p Rpar=1m
R134 N006 N005 1k Noiseless
R135 N007 N006 1k Noiseless
C19 5 MID 2f
DOP Vsatp VO DO
DON VO Vsatn DO
G48 MID Vsatp Satp MID 1k
R11 Vsatp MID 1m
G49 MID Vsatn Satn MID 1k
R49 Vsatn MID 1m
C56 VO Vsatp 1f
C57 VO Vsatn 1f
C59 Vsatp MID 1n
C60 Vsatn MID 1n
G4 N006 N007 E_n MID 1m
I2 Inn1 MID {Ios}
G7 MID Avo1 Inp2 Inn2 100µ
DOI VO 5 LIM
COI 5 VO 1p
R18 N046 3 1µ Noiseless
R20 N048 4 1µ Noiseless
A7 MID MID MID MID MID MID E_n MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={En} Enk={Enk}
R4 E_n MID 100k Noiseless
R5 N044 Vcc_Int 1Meg Noiseless
R8 N044 Vee_Int 1Meg Noiseless
C2 N044 0 1
E1 MID 0 N044 0 1
R9 MID 0 1Meg Noiseless
C6 MID 0 1n
B3 N046 N048 I=I(DOI)
D1 CMp Inp2 DO
D2 Inp2 CMn DO
I6 3 CMp {1k*Vcm_max}
R3 3 CMp 1m
C3 3 CMp 1n
I7 4 CMn {1k*Vcm_min}
R10 4 CMn 1m
C20 4 CMn 1n
G1 MID N040 N039 MID 1k
G9 MID N042 N043 MID 1k
D3 N040 N041 DO
D4 N041 N042 DO
R12 N040 MID 1m
R13 N042 MID 1m
R26 N021 MID 1Meg Noiseless
G10 MID N021 N020 MID 1µ
C11 N021 MID {Cfp2}
Rx VO N024 {Rx_Zo} Noiseless
Rdummy VO MID {Rdummy_Zo} Noiseless
G12 MID N003 N023 VO {G1_Zo}
R28 N003 MID 1 Noiseless
R30 N003 N004 {R1a_Zo} Noiseless
R31 N004 MID {R2a_Zo} Noiseless
G13 MID N011 N004 MID {G2_Zo}
C24 N004 N003 {C1a_Zo}
R32 N024 MID 1 Noiseless
B5 MID N024 I=Uplim(Dnlim({G4_Zo}* V(ZoF,MID), {Izon}, 25m), {Izop}, 25m)
R34 N015 ZoF {R1d_Zo} Noiseless
R35 ZoF MID {R2d_Zo} Noiseless
C25 ZoF N015 {C1d_Zo}
R36 N013 MID 1 Noiseless
R37 N015 MID 1 Noiseless
R38 N011 N012 {R2c_Zo} Noiseless
R39 N012 N026 {R1c_Zo} Noiseless
C28 MID N026 {C1c_Zo}
Gb1 MID N013 N012 MID 1
R40 N013 N014 {R1b_Zo} Noiseless
R41 N014 MID {R2b_Zo} Noiseless
C29 N014 N013 {C1b_Zo}
R42 N011 MID 1 Noiseless
G15 MID N015 N014 MID {G3_Zo}
R44 N009 MID 1 Noiseless
R47 N020 MID 1 Noiseless
Gb2 MID N009 Clamp MID 1
R48 N009 N010 {R1_Avo} Noiseless
R50 N010 MID {R2_Avo} Noiseless
C31 N010 N009 {C1_Avo}
G17 MID N020 N010 MID {G_Avo}
R54 N022 MID 1Meg Noiseless
G18 MID N022 N021 MID 1µ
C33 N022 MID {Cfp3}
R16 Vimon MID 1k
C10 Vimon MID 10p
B4 MID Vimon I=1m*I(DOI)
B6 Satp 3 I=1m*Dnlim({Voha}+ {Vohb}*V(Vimon,MID)+ {Vohc}*V(Vimon,MID)**2,1m,1m) Rpar=1k Cpar=1n
B7 4 Satn I=1m*Dnlim({Vola}+ {Volb}*-V(Vimon,MID)+ {Volc}*-V(Vimon,MID)**2,1m,1m) Rpar=1k Cpar=1n
C4 N028 N027 {C1a_PSRp}
G5 MID N027 3 MID {G1_PSRp}
R17 N027 MID 1 Noiseless
R19 N028 N027 {R1a_PSRp} Noiseless
R24 N028 MID {R2a_PSRp} Noiseless
C13 N030 N029 {C1b_PSRp}
R25 N030 MID {R2b_PSRp} Noiseless
R27 N030 N029 {R1b_PSRp} Noiseless
G11 MID N029 N028 MID 1
R33 N029 MID 1 Noiseless
G16 MID N037 N030 MID {G2_PSRp}
R45 N037 MID 1 Noiseless
C17 N033 N034 {C1a_PSRp}
G19 MID N034 4 MID {G1_PSRp}
R46 N034 MID 1 Noiseless
R51 N033 N034 {R1a_PSRp} Noiseless
R52 N033 MID {R2a_PSRp} Noiseless
C18 N031 N032 {C1b_PSRp}
R53 N031 MID {R2b_PSRp} Noiseless
R55 N031 N032 {R1b_PSRp} Noiseless
G20 MID N032 N033 MID 1
R56 N032 MID 1 Noiseless
G22 MID N038 N031 MID {G2_PSRp}
R57 N038 MID 1 Noiseless
B8 N005 N006 I=1m*({Vosa}+ {Vosb}*Temp+ {Vosc}*Temp**2+ {Vosd}*Temp**3)
B9 Inp1 MID I={Iba}+({Ibb}*Pwr(Temp, {Ibc})/(Pwr({Ibd}, {Ibc})+Pwr(Temp,{Ibc})))
B2 N046 N048 I={Iqa}+{Iqb}*Temp+ {Iqc}*Temp**2+ {Iqd}*Temp**3+ {Iqe}*Temp**4
B10 VO N039 I=1m*{OR} Rpar=1k Cpar=10p
B11 VO N043 I=1m*{-OR} Rpar=1k Cpar=10p
S9 N004 N003 OL MID OL
A5 MID MID IGr MID MID MID OL MID OR Ref=100u Vh=50u Trise=10n
C26 IGr MID 1p Rpar=1k
C34 OL MID 1p
Rgross Clamp N041 1m
B12 MID IGr I=1m*Abs(I(Rgross))
R29 N023 MID 1Meg Noiseless
G6 MID N023 N022 MID 1µ
C21 N023 MID {Cfp3}
C23 N040 MID 1n
C27 N042 MID 1n
C35 Inp2 MID 1p Rpar=1k
C36 N018 MID 1n Rpar=1m
R21 Avo1 MID 1Meg Noiseless
R22 Clamp MID 1Meg Noiseless
C5 N036 MID 1f
C8 MID N017 1f
R23 N017 1 10µ
R43 N036 2 10µ
.param Vosa=118u Vosb=140n
.param Vosc=-16.8p Vosd=-2.78p
.param Iba=1p Ibb=305p
.param Ibc=16.3 Ibd=120
.param Ios=2p Iqa=3.45m Iqb=7.74u
.param Iqc=-25.2n Iqd=-92.4p Iqe=1.79p
.param Vcm_min=0 Vcm_max=0
.param En=2.6n Enk=1.3k
.param Iscp=220m Iscn={-Iscp}
.param Izop={Rx_Zo*Iscp} Izon={Rx_Zo*Iscn}
.param Vsmin=2.7 Vsmax=6
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron={Zo_dc} Roff=1u Vt=500m Vh=-100m Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=0.5 Vh=-0.1 Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model OL SW(Ron=10m Roff=1G Vt=500m Vh=-100m Noiseless)
.param OR=10
.param Avo=112.2
.param SRp=11 SRn={-SRp}
.param fp1=43 fp2=100Meg fp3=150Meg
.param Rser=1m
.param Ccm=17p Rcm=10G
.param Cdiff=9.3p Rdiff=1G
.param Avo2_dB = {Avo-40+1}
.param Avo2 = {pwr(10, (Avo2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param beta_Zo=1.12
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=2.85k
.param Zo_max={Zo_dc}
.param R1a_Zo=10k
.param fz1_Zo=46
.param fp1_Zo=3.3k
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1d_Zo=10k
.param fz4_Zo=160Meg
.param fp4_Zo=1.2G
.param C1d_Zo = {1 / (2 * pi * R1d_Zo * fz4_Zo)}
.param R2d_Zo = {R1d_Zo/ ((2 * pi * fp4_Zo * C1d_Zo
+* R1d_Zo) - 1)}
.param actual4_Zo = {R2d_Zo / (R1d_Zo + R2d_Zo)}
.param G4_Zo = {1/actual4_Zo}
.param R1c_Zo=10k
.param fp3_Zo=1.9Meg
.param fz3_Zo=3Meg
.param C1c_Zo = {1 / (fz3_Zo * R1c_Zo * 2 * pi)}
.param R2c_Zo = {(1 / (fp3_Zo * C1c_Zo * 2 * pi))
+- R1c_Zo}
.param R1b_Zo=10k
.param fz2_Zo=45Meg
.param fp2_Zo=1G
.param C1b_Zo = {1 / (2 * pi * R1b_Zo * fz2_Zo)}
.param R2b_Zo = {R1b_Zo/ ((2 * pi * fp2_Zo * C1b_Zo
+* R1b_Zo) - 1)}
.param actual2_Zo = {R2b_Zo / (R1b_Zo + R2b_Zo)}
.param G3_Zo = {1/actual2_Zo}
.param R1_Avo=10k
.param fz_Avo=11Meg
.param fp_Avo=17.5Meg
.param C1_Avo = {1 / (2 * pi * R1_Avo * fz_Avo)}
.param R2_Avo = {R1_Avo/ ((2 * pi * fp_Avo * C1_Avo
+* R1_Avo) - 1)}
.param actual1_Avo = {R2_Avo / (R1_Avo + R2_Avo)}
.param G_Avo = {1/actual1_Avo}
.param Voha=20.2m Vohb=5.53 Vohc=14.4
.param Vola=15m Volb=4.57 Volc=6.27
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=93.4
.param R1a_PSRp=100k
.param fz1_PSRp=1k
.param fp1_PSRp=40Meg
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100k
.param fz2_PSRp=2Meg
.param fp2_PSRp=3Meg
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=113
.param R1a_CMR=100Meg
.param fz1_CMR=375
.param fp1_CMR=100Meg
.ends AD8655
