* AD536AP SPICE Macro-model
* Description: Amplifier
* Generic Desc: Bipolar, RMStoDC conv, wide input range
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
*
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
* END Notes
*
*$
* This model was developed for Analog Devices by:
* AEI Systems, LLC
* 5777 W. Century Blvd., Suite 876
* Los Angeles, California  90045-5677
*
* The model is ©2006, AEi Systems, LLC. All rights reserved.
*
* Users may not directly or indirectly display, re-sell or
* re-distribute this model or any derivative work therefore
* without the prior written consent of both AEi Systems and
* Analog Devices. This model is subject to change without
* notice. Neither Analog Devices nor AEi Systems is responsible
* for updating this model.
*
* For more information regarding modeling services, model
* libraries and simulation products, please call AEi Systems
* at (310) 216-1144, or contact AEi Systems by
* email: info@aeng.com. Or visit AEi Systems on the web
* at http://www.AENG.com
*
* SIMULATION NOTE: Set Gmin = 5E-17(1/Ohm) for conversion accuracy where Vin < 0.02mVrms.
*$
.SUBCKT AD536A VIN NVS CAV DBOUT BUFFOUT BUFFIN IOUT RL COM VS
R4 Vin 13 50k
R3 Vin 24 25k
R5 24 15 12k
X1 24 0 6 Vs NVs OPAMP0
Q1 Vs 6 15 NPN
.MODEL NPN NPN
R6 4 13 12k
R1 8 Cav 25k
GB3 Cav Com Value={I(V4)*I(V4)}
X2 7 14 11 Vs NVs AEIOPAMP0
VIref dBout 19 DC=-0.3mV
Rf 7 11 25k
V5 Vs 8
GBIout Com Iout Value={2*sqrt(I(V5))}
R2 Iout RL 25k
Q2 Vs 6 4 NPN
V4 13 Com
EB4 19 Com Value={IF(I(V4)<100n,0.026*(log(I(VIref))-log(1u)),0.026*(log(I(VIref))-log(I(V4))))}
Rbuffout 11 Buffout 0.5
Rbuffin Buffin Com 100MEG
Vbuffin Buffin 14
.ENDS
*$
.SUBCKT OPAMP0 2 3 6 7 4
* NODES:      - IN + OUT VCC VEE
QNI1 10 2 13 QNI1
QNI2 12 300 13 QNI1
IOFST 2 3 1.0000N
VOFST 300 3 2.0000U
.MODEL QNI1 NPN(NF=843.33M BF=6.2000K IS=8E-16 CJE=3PF)
Q3 13 14 4 QN741
IEE 4 14 310.00N
CCM 13 4 2.5PF
RCM 13 4 10MEG
RC1 11 10 1K
RC2 11 12 1K
CHF 10 12 18.333P
D1 7 11 D741
RP 7 4 10K
GA 0 15 12 10 .9M
GCM 0 15 13 0 6.3N
R2 15 0 100K
D2 15 0 D741
D3 0 15 D741
C2 15 16 30PF
GB 16 0 15 0 45.000M
RO2 16 0 1000
D4 16 17 D741P
*EP 17 0 7 0 -1.8 1
EP 17 0 Value = {V(7)-1.8}
D5 18 16 D741P
*EN 0 18 0 4 -2.3 1
EN 0 18 Value = {-V(4)-2.3}
.MODEL D741P D(RS=1M)
D6 19 16 D741
D7 16 20 D741
IRO 20 19 170UA
RR0 16 21 .1MEG
Q4 7 19 21 QNO
Q5 4 20 21 QPO
.MODEL QNO NPN(BF=150 CJC=3P IS=1E-14)
.MODEL QPO PNP(BF=150 CJC=3P IS=1E-14)
L1 21 6 10.0000U
RL1 21 6 1K
.MODEL D741 D(CJO=3PF)
.MODEL QN741 NPN
.ENDS
*$
.SUBCKT AEIOPAMP0 2 3 6 7 4
*             - IN + OUT VCC VEE
RP 4 7 10K
IB 3 90 4.5000N
VIB 90 4
IO 3 2 50.000P
RIP 3 4 1G
CIP 3 4 1.4PF
FIBN 2 4 VIB 1
RIN 2 4 1G
CIN 2 4 1.4PF
VOFST 2 10 500.00U
RID 10 3 1G
EA 11 4 10 3 1
R1 11 12 5K
R2 12 13 50K
C1 12 4 6.5000F
GA 4 14 4 13 27.000
C2 13 14 1.3500F
RO 14 4A 75
EBAL 4A 4 2A 4 1
RBAL1 7 2A 1MEG
RBAL2 2A 4 1MEG
L 14 6 15.000N
RL 14 6 1000
CL 6 4 3PF
D1 6 70 DN
VSAT 70 7 -3.4000
D2 40 6 DN
VSAT2 40 4 0
.MODEL DN D
.ENDS
*$
.SUBCKT AD536A_CON VIN NVS CAV DBOUT IOUT RL COM VS
R4 Vin 13 50k
R3 Vin 24 25k
R5 24 15 12k
X1 24 0 6 Vs NVs OPAMP0
Q1 Vs 6 15 NPN
.MODEL NPN NPN
R6 4 13 12k
R1 8 Cav 25k
GB3 Cav Com Value={I(V4)*I(V4)}
VIref dBout 19 DC=-0.3mV
V5 Vs 8
GBIout Com Iout Value={2*sqrt(I(V5))}
R2 Iout RL 25k
Q2 Vs 6 4 NPN
V4 13 Com
EB4 19 Com Value={IF(I(V4)<100n,0.026*(log(I(VIref))-log(1u)),0.026*(log(I(VIref))-log(I(V4))))}
.ENDS
*$
.SUBCKT AD536A_BUFF Buffin Buffout Com Vs NVs
X2 7 14 11 Vs NVs AEIOPAMP0
Rf 7 11 25k
Rbuffout 11 Buffout 0.5
Rbuffin Buffin Com 100MEG
Vbuffin Buffin 14
.ENDS
*$




