* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8411A 1 2 3 4 5 6 7
R_INN_OUT 4 INNx 600k Noiseless
RCM_INN N010 N013 12000.165 Noiseless
RCM_INP INPx VSL_OUTP 12k Noiseless
R1 2 4 1T Noiseless
R_INP_REF INPx REFMID 569988.7 Noiseless
R_REF1 6 REFMID 60k Noiseless
R_REF2 3 REFMID 60k Noiseless
R2 VSL_INN 2 1
R3 1 2 562k Noiseless
D1 N027 N029 D
V4 N027 2 1.5
D2 7 N029 D
D3 N004 N006 D
D4 1 N006 D
V5 N004 2 1.5
G1 2 VSL_INN 1 2 1
G2 2 VSL_INP 7 2 1
R5 VSL_INP 2 1
LCM_INN N010 INNx 0.0227E-3
D9 N018 N017 DN
D10 N014 7 D
D11 N016 N015 DN
D12 7 N019 D
D13 N014 1 D
D14 1 N019 D
V10 N019 2 84.3
V11 2 N014 19.3
D15 N022 7 Ddiff
D16 N023 1 Ddiff
D17 N022 1 D
D18 N023 7 D
D19 N026 N028 D
D20 N026 7 D
V12 N028 2 -5
R8 N026 2 40E3
D21 N005 N003 D
D22 N005 1 D
V13 N003 2 -5
R9 2 N005 40E3
Isupply 5 2 7.8m
Vos N013 N012 0E-6
H1 N009 VSL_INN Vn1 707.1067812
Vn1 N015 0 0
Vn2 N016 0 0.65
Vn3 N017 0 0
Vn4 N018 0 0.65
H2 N009 N011 Vn3 707.1067812
C4 VSL_OUTP 2 1f
R10 VSL_OUTP 2 10G Noiseless
BSL1 2 VSL_OUTP I=limit((1*V(VSL_INP, VSL_OUTP)), 0.4, -0.4)
EVSx VSx 2 5 2 1
BIbiasP N029 2 I=IF(V(3,0)<=0&V(6,0)<=0, 0e-6, 104e-6)
BIbiasN N006 2 I=IF(V(3,0)<=0&V(6,0)<=0, 0e-6, 104e-6)
C5 N032 N031 {C1a_PSRR}
G6 2 N031 VSx 2 {G1_PSRR}
R12 N031 2 1 Noiseless
R13 N032 N031 {R1a_PSRR} Noiseless
R14 N032 2 {R2a_PSRR} Noiseless
C6 N034 N033 {C1b_PSRR}
R15 N034 2 {R2b_PSRR} Noiseless
R16 N034 N033 {R1b_PSRR} Noiseless
G7 2 N033 N032 2 1
R17 N033 2 1 Noiseless
G8 2 PSRR N034 2 {G2_PSRR}
R18 PSRR 2 1 Noiseless
G9 N011 N012 PSRR 2 1k
R19 N012 N011 1m
B1 Satp VSx I=1m*Dnlim(Ap + Bp*V(Vimon,2) +Cp*V(Vimon,2)**2,Ap,1m)
R20 Satp VSx 1k
C7 Satp VSx 1n
B2 2 Satn I=1m*Dnlim(Mn*(-V(Vimon,2)) +OSn,OSn,1m)
R21 Satn 2 1k
C8 Satn 2 1n
B3 2 Vimon I=1m*I(Rout) Rpar=1k Cpar=1n
G10 2 Vsatp Satp 2 1k
R22 Vsatp 2 1m
G11 2 Vsatn Satn 2 1k
R23 Vsatn 2 1m
C9 Vsatp 2 1n
C10 Vsatn 2 1n
DOP Vsatp Ro_out DO
DON Ro_out Vsatn DO
C11 Ro_out Vsatp 1f
C12 Ro_out Vsatn 1f
DCL4 VSL_INP NCL5 D
VCL6 NCLU NCL5 1.5
DCL3 NCL6 VSL_INP D
VCL5 NCL6 NCLL 1.5
DCL1 NCL1 VSL_INN D
VCL3 NCL1 NCLL 1.5
DCL2 VSL_INN NCL2 D
VCL4 NCLU NCL2 1.5
VCL1 NCLU 0 70.8
VCL2 NCLL 0 -2.8
R49 Ro_in Aol_Out 1µ
Rout Ro_out 4 1µ
C25 Clamp 2 8.55µ
C26 N024 2 4p
G26 2 N024 Clamp 2 66.7µ
G27 2 N030 N025 2 66.7µ
G28 2 N035 N030 2 66.7µ
G29 2 N036 N035 2 66.7µ
G30 2 N037 N036 2 66.7µ
G31 2 N038 N037 2 66.7µ
R60 N039 2 15k Noiseless
G32 2 N039 N038 2 66.7µ
G33 2 Aol_Out N039 2 66.7µ
C28 INPx 2 1p
C29 2 INNx 1p
R6 N020 N021 {R1a_Avo} Noiseless
R7 N021 2 {R2a_Avo} Noiseless
G4 2 N025 N021 2 {G2_Avo}
C2 N021 N020 {C1a_Avo}
R11 N025 2 1 Noiseless
G5 2 N020 N024 2 1
R24 N020 2 1 Noiseless
C1 N030 2 {Cf}
C3 N035 2 {Cf}
C13 N036 2 {Cf}
C14 N037 2 {Cf}
C15 N038 2 {Cf}
C16 N039 2 {Cf}
C17 Aol_Out 2 {Cf}
B4 2 Clamp I=Uplim(Dnlim(V(INPx,INNx)*5.625k, {Isink}, {Eps}), {Isrc}, {Eps})
R25 Ro_out 2 {Ro}
R29 Aol_Out 2 15k Noiseless
R30 N038 2 15k Noiseless
R31 N037 2 15k Noiseless
R32 N036 2 15k Noiseless
R33 N035 2 15k Noiseless
R34 N030 2 15k Noiseless
R35 N024 2 15k Noiseless
R36 Clamp 2 1Meg Noiseless
R4 2 7 562k Noiseless
B5 2 Ro_out I=Uplim(Dnlim(V(Ro_in,2)*{1/Ro}, {Izon}, {Eps2}), {Izop}, {Eps2})
DGP1 N043 Clamp DG
DGN1 Clamp N044 DG
G12 2 N043 GRpi 2 1k
G13 2 N044 GRni 2 1k
R38 N043 2 1m Noiseless
R39 N044 2 1m Noiseless
R40 GRpi Ro_out 1k Noiseless
R41 GRni Ro_out 1k Noiseless
C18 GRni Ro_out 10p
C19 GRpi Ro_out 10p
I3 Ro_out GRni {-1m*GRV}
I4 Ro_out GRpi {1m*GRV}
C20 Clamp N043 1f
C21 Clamp N044 1f
.model D D(IS=1E-14)
.model DN D(KF=0.252f IS=31.7f)
.model Ddiff D(IS=1e-14 BV=19.3 )
.param gain_PSRR = {pow(10, (-Rej_dc_PSRR/20))}
.param C1a_PSRR = {1 / (2 * pi * R1a_PSRR * fz1_PSRR)}
.param R2a_PSRR = {R1a_PSRR/ ((2 * pi * fp1_PSRR * C1a_PSRR
+* R1a_PSRR) - 1)}
.param actual1_PSRR = {R2a_PSRR / (R1a_PSRR + R2a_PSRR)}
.param G1_PSRR = {gain_PSRR/actual1_PSRR}
.param Rej_dc_PSRR=120
.param R1a_PSRR=100k
.param fz1_PSRR=2.5k
.param fp1_PSRR=50Meg
.param C1b_PSRR = {1 / (2 * pi * R1b_PSRR * fz2_PSRR)}
.param R2b_PSRR = {R1b_PSRR/ ((2 * pi * fp2_PSRR * C1b_PSRR
+* R1b_PSRR) - 1)}
.param actual2_PSRR = {R2b_PSRR / (R1b_PSRR + R2b_PSRR)}
.param G2_PSRR = {1/actual2_PSRR}
.param R1b_PSRR=100k
.param fz2_PSRR=310k
.param fp2_PSRR={fp1_PSRR}
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.param Ap=6m Bp=16.44 Cp=70.63
.param Mn=8.36 OSn=17.3m
.param R1a_Avo=10k
.param fz1_Avo=4.5Meg
.param fp1_Avo=10Meg
.param C1a_Avo = {1 / (2 * pi * R1a_Avo * fz1_Avo)}
.param R2a_Avo = {R1a_Avo/ ((2 * pi * fp1_Avo * C1a_Avo
+* R1a_Avo) - 1)}
.param actual1_Avo = {R2a_Avo / (R1a_Avo + R2a_Avo)}
.param G2_Avo = {1/actual1_Avo}
.param Cf=110f
.param Isrc=96 Isink={-Isrc}
.param Eps=0.1
.param Ro=7
.param Izon=-1 Izop=1
.param Eps2=10m
.param GRV=25
.model DG D(Vfwd=1k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.ends AD8411A
